US05116862
A solution of ethyl (E)-hept-2-en-6-ynoate (1.8 g) in 50% aqueous methanol containing 5% sodium hydroxide was stirred at ambient temperature overnight. The methanol was removed under reduced pressure and the resulting aqueous phase was extracted with dichloromethane. The aqueous phase was adjusted to pH 1 with concentrated hydrochloric acid and re-extracted with dichloromethane. These organic extracts were washed with brine, dried over anhydrous magnesium sulphate and then evaporated in vacuo to leave (E)-hept-2-en-6-ynoic acid as a white solid (1.3 g).

reactant | ethyl (E)-hept-2-en-6-ynoate | 1.8 g | C(\C=C\CCC#C)(=O)OCC | C9H12O2
solvent | methanol | CO | CH4O
product | (E)-hept-2-en-6-ynoic acid | 1.3 g | C(\C=C\CCC#C)(=O)O | C7H8O2
